US05079260
A mixture of 4,5-dimethylfluorenone (7.0 g, 32.8 mmol), methanol (100 mL), ethyl acetate (50 mL), acetic acid (20 mL) and palladium hydroxide (20% on carbon, water content 44.43%, 1.0 g) was hydrogenated in a shaker at 35-40psi of hydrogen for 3.5 hr. The reaction was monitored by TLC (silica, 10% ethyl acetate/hexane). The catalyst was filtered off and the solvent was removed in vacuum, the residue was diluted with water (150 mL). The product was extracted with ethyl acetate (3×50 mL) and dried over magnesium sulfate. Evaporation of the solvent afforded 5.8 g (91.2%) of 4,5-dimethylfluorene.

reactant | 4,5-dimethylfluorenone | 32.8 mmol, 7.0 g | CC=1C=CC(C2=CC3=CC=CC(=C3C12)C)=O | C15H12O
reactant | methanol | 100 mL | CO | CH4O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 1.0 g | [OH-].[Pd+2].[OH-]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4,5-dimethylfluorene | 5.8 g, 91.2% | CC1=CC=CC=2CC3=CC=CC(=C3C12)C | C15H14
